US08138173B2
Ethyl (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetate (3.0 g, 8.64 mmol) was dissolved in 35 mL of ethanol and 2.9 mL of 6 N aqueous sodium hydroxide. The mixture was allowed to stir at ambient temperature overnight, and the pH was adjusted to 6 with 3 N aqueous hydrochloric acid. The mixture was filtered and dried to afford (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetic acid as a pale yellow solid, mp decomposed at 350° C. MS (ESI) m/z 320 (M+H)+; Anal. calcd for C18H13N3O3: C, 64.23; H, 4.47; N, 12.48. Found: C, 64.48; H, 4.38; N, 12.60.

reactant | Ethyl (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetate | 8.64 mmol, 3.0 g | O=C1NC=2C=CC=CC2C=2C1=NN(C2CC(=O)OCC)C2=CC=CC=C2 | C20H17N3O3
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | 35 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 6 N, 2.9 mL | [OH-].[Na+]
product | (4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)acetic acid | O=C1NC=2C=CC=CC2C=2C1=NN(C2CC(=O)O)C2=CC=CC=C2 | C18H13N3O3
